US06136501
Synthesis of 2,3-dimethyl-2-butyl methacrylate
Into a 500 mL flask containing a stir bar, and fitted with a condenser, was placed 180 g of anhydrous tetrahydrofuran, 40 g of 2,3-dimethyl-2-butanol and 40.93 g of triethylamine under a N2 atmosphere. To this was dropwise added 40.927 g of purified methacroyl chloride from an addition funnel. Reaction was allowed to warm moderately. After 24 hrs of stirring, the tetrahydrofuran was roto-evaporated from the solution and 100 mL of ethyl acetate was added. The salts were then filtered off though a Buchner funnel. The ethyl acetate was then stripped by use of a rotory-evaporator. A vacuum distillation column was set up with an 8 inch Vigreaux column, stir bar and a few small boiling chips. A fractional distillation was performed and 19.8 g of the product was recovered in the fraction which had a boiling point of approximately 80-87° C. at 6-7 Torr of pressure. 1H NMR was used to confirm structure and purity.

reactant | tetrahydrofuran | 180 g | O1CCCC1 | C4H8O
reactant | 2,3-dimethyl-2-butanol | 40 g | CC(C)(C(C)C)O | C6H14O
reactant | triethylamine | 40.93 g | C(C)N(CC)CC | C6H15N
product | 2,3-dimethyl-2-butyl methacrylate | C(C(=C)C)(=O)OC(C)(C(C)C)C | C10H18O2
